US05273975
Sodium hydroxide solution (5.0 mL of 4.0 N, 20 mmol) was slowly added to ethyl 2,3,6,7-tetrahydro-3-oxo-2-(formylamino)-1H,5H-benzo(ij)quinolizine-2-carboxylate (3.04 g, 10.0 mmol) in methanol (25 mL). After stirring at room temperature for 30 min, hydrochloric acid (5.0 mL of 4.0 N) was added and the precipitate was filtered off, washed with water and air dried to give 2.4 g of N-(2,3,6,7-tetrahydro-3-oxo-1H,5H-benzo(ij)quinolizin-2-yl)formamide, mp 149°-152° C. A portion of the product was recrystallized from ethyl acetate for analysis; mp 140°-143°. Anal. Calcd. for C13H14N2O2 : C, 67.81; H, 6.13; N, 12.17. Found: C, 67.67; H, 6.07; N, 11.94.

reactant | Sodium hydroxide | 20 mmol, 4.0 N, 5.0 mL | [OH-].[Na+]
reactant | ethyl 2,3,6,7-tetrahydro-3-oxo-2-(formylamino)-1H,5H-benzo(ij)quinolizine-2-carboxylate | 10.0 mmol, 3.04 g | O=C1N2CCCC3=C2C(CC1(C(=O)OCC)NC=O)=CC=C3 | C16H18N2O4
reactant | hydrochloric acid | 4.0 N, 5.0 mL | Cl | ClH
solvent | methanol | 25 mL | CO | CH4O
product | N-(2,3,6,7-tetrahydro-3-oxo-1H,5H-benzo(ij)quinolizin-2-yl)formamide | 2.4 g | O=C1N2CCCC3=C2C(CC1NC=O)=CC=C3 | C13H14N2O2
